US08865682B2
To a solution of methyl 4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoate (100 mg, 0.25 mmol) in a 1:1 mixture of THF/MeOH (5 mL/5 mL), was added 1M NaOH (2 mL). The mixture was heated in 60° C. bath for 1.5 hours, poured into 100 mL of water and acidified with 2M HCl (2 mL). The precipitates were filtered, washed with water, and dried in vacuum to give 4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoic acid as yellow solid. Yield: 90 mg, 93%.

reactant | methyl 4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoate | 0.25 mmol, 100 mg | FC=1C=C2/C(/C(NC2=CC1F)=O)=C\1/C=C(C(O1)(C)C)C1=CC=C(C(=O)OC)C=C1 | C22H17F2NO4
reactant | THF MeOH | 5 mL | C1CCOC1.CO
reactant | NaOH | 1M, 2 mL | [OH-].[Na+]
reactant | HCl | 2M, 2 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
product | 4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoic acid | FC=1C=C2/C(/C(NC2=CC1F)=O)=C\1/C=C(C(O1)(C)C)C1=CC=C(C(=O)O)C=C1 | C21H15F2NO4
